US04959378
3-[(4-Amino-3-pyridinyl)amino]phenol
A suspension of 3-[(4-nitro-3-pyridinyl)amino]phenol, N-oxide (6.2 g) in 250 ml ethanol containing 0.6 g platinum oxide was hydrogenated at 60 psi (pounds per square inch) for five hours and thereafter filtered through Celite and concentrated to 5 g oil. This was purified by flash chromatography (silica, 25% methanol in dichloromethane) to give 4.5 g solid. This was recrystallized from acetonitrile to give 3.9 g crystals, mp 174°-176°. This solid was recrystallized from acetonitrile to yield 3.2 g crystals, mp 175°-177°.

reactant | 3-[(4-nitro-3-pyridinyl)amino]phenol | [N+](=O)([O-])C1=C(C=NC=C1)NC=1C=C(C=CC1)O | C11H9N3O3
solvent | ethanol | 250 ml, 0.6 g | C(C)O | C2H6O
product | 3-[(4-Amino-3-pyridinyl)amino]phenol | 4.5 g | NC1=C(C=NC=C1)NC=1C=C(C=CC1)O | C11H11N3O
